US07666901B2
For instance, as depicted in FIG. 4, a solution of 60 mg wortmannin (0.14 mmol from Aldrich) in 12 mL tetrahydrofuran (THF) is cooled in a 0° C. ice bath under nitrogen. 1M borane in THF solution (134 μL, 0.14 mmol from Aldrich) is added and the reaction mixture is stirred at 0° C. for 3.5 hours. The reaction is quenched with 1 mL water. After warming to room temperature, the reaction mixture is diluted with water and extracted with ethyl acetate. After work up, about 60 mg (90% pure 17-hydroxy-wortmannin by HPLC) solid is obtained. This solid (about 0.126 mmol 17-hydroxy-wortmannin) is dissolved in 15 mL methylene chloride, reacted with iodoacetic acid (24 mg, 0.13 mmol), dicyclohexylcarbodiimide (DCC) (27 mg, 0.13 mmol) and 4-N,N-dimethylaminopyridine (DMAP) (0.1 mg as catalyst). The reaction mixture is kept at room temperature for 1 hour. After work up, about 75 mg crude product (yellow solid) is obtained. Pure 17-dihydro-17-(1-iodoacetyl)-wortmannin is isolated by preparative HPLC. A total of 54 mg of white solid is obtained.

reactant | wortmannin | 0.14 mmol, 60 mg | CC(=O)O[C@@H]1C[C@]2([C@@H](CCC2=O)C3=C1[C@@]4(C=5C(=COC5C3=O)C(=O)O[C@@H]4COC)C)C | C23H24O8
reactant | borane | 1M | B | BH3
solvent | tetrahydrofuran | 12 mL | O1CCCC1 | C4H8O
solvent | THF | 0.14 mmol, 134 μL | O1CCCC1 | C4H8O
product | 17-hydroxy-wortmannin | 90% | CC(=O)O[C@@H]1C[C@]2([C@@H](CC[C@@H]2O)C3=C1[C@@]4(C=5C(=COC5C3=O)C(=O)O[C@@H]4COC)C)C | C23H26O8
